US07056918B2
1,3-Dimethyl-5-(2-oxo-propyl)-1,3-dihydro-benzoimidazol-2-one was diluted with toluene (30 mL) and treated with 3-methylbenzaldehyde (0.82 mL) and piperidine (0.3 mL). The mixture was placed in an oil bath set to a temperature of 145° C. and the flask was fitted with a pressure equalizing funnel containing 4 Å molecular sieves and equipped with a condenser. After 18 hours the mixture was allowed to cool and was concentrated. Chromatography on silica gel afforded 5-(1-Acetyl-2-m-tolyl-vinyl)-1,3-dimethyl-1,3-dihydro-benzoimidazol-2-one (1.077 g).

reactant | 1,3-Dimethyl-5-(2-oxo-propyl)-1,3-dihydro-benzoimidazol-2-one | CN1C(N(C2=C1C=CC(=C2)CC(C)=O)C)=O | C12H14N2O2
reactant | 3-methylbenzaldehyde | 0.82 mL | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | piperidine | 0.3 mL | N1CCCCC1 | C5H11N
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(1-Acetyl-2-m-tolyl-vinyl)-1,3-dimethyl-1,3-dihydro-benzoimidazol-2-one | 1.077 g | C(C)(=O)C(=CC=1C=C(C=CC1)C)C1=CC2=C(N(C(N2C)=O)C)C=C1 | C20H20N2O2
